US04477447
To a solution of anisole (5 ml) and trifluoroacetic acid (6 ml) was added tert-butoxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 1.5 g) with stirring at ambient temperature. The reaction mixture was stirred for an hour at the same temperature. Then the resultant solution was dropwise added to diisopropyl ether (150 ml). The precipitates were collected by filtration and washed with diisopropyl ether. The precipitates were dissolved in an aqueous solution of sodium bicarbonate. The aqueous solution was adjusted to pH 2.5 with conc. hydrochloric acid. The precipitates were collected by filtration, washed with water and dried over phosphorus pentoxide under reduced pressure to give carboxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 0.85 g), IR and NMR spectra of which were the same as those of the object compound of Example 14.

reactant | anisole | 5 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butoxycarbonylmethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 1.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC(=O)OC(C)(C)C)C1=O)=NOC | C19H23N5O7S2
solvent | diisopropyl ether | 150 ml | C(C)(C)OC(C)C | C6H14O
product | carboxymethyl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 0.85 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC(=O)O)C1=O)=NOC | C15H15N5O7S2
